US04835294
The product of Example 2, 2-methoxy-6-methyl-1,3-dioxan-4-one, was reacted with benzylamine in dichloromethane at room temperature for 24 hours. This afforded optically active 3-(N-benzylamino) butyric acid.

reactant | 2-methoxy-6-methyl-1,3-dioxan-4-one | COC1OC(CC(O1)=O)C | C6H10O4
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(N-benzylamino) butyric acid | C(C1=CC=CC=C1)NC(CC(=O)O)C | C11H15NO2
